US09034880B2
Preparation of N-(5-(2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)ethyl)pyridin-2-yl)acetamide (Compound 447)
The title compound is prepared from a mixture of 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole, N-(5-vinylpyridin-2-yl)acetamide and KOH (5-7 equiv) in NMP at a temperature ranging between 25 deg C. to 100 deg C. The product obtained is isolated by preparative HPLC.

reactant | 2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | N-(5-vinylpyridin-2-yl)acetamide | C(=C)C=1C=CC(=NC1)NC(C)=O | C9H10N2O
reactant | KOH | 5-7 equiv | [OH-].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | N-(5-(2-(1,2,3,4-tetrahydro-2,8-dimethylpyrido[4,3-b]indol-5-yl)ethyl)pyridin-2-yl)acetamide | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC=2C=CC(=NC2)NC(C)=O)CC1 | C22H26N4O
